US06451810B1
Platinum on carbon (1 g of 10%) and sodium sulfate (2 g) were added to a slurry of tert-butyl N-[2-(3-nitroquinolin-4-yl)aminoethyl]carbamate (100 g, 0.30 mol) in toluene (500 mL). The mixture was placed under a hydrogen atmosphere at 50 psi (3.4×104 pascals) on a Parr apparatus at ambient temperature overnight. The reaction mixture was filtered. The filtrate was concentrated to provide 73 g of tert-butyl N-[2-(3-aminoquinolin-4-yl)aminoethyl]carbamate as a dark gold oil.

reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl N-[2-(3-nitroquinolin-4-yl)aminoethyl]carbamate | 0.30 mol, 100 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H20N4O4
catalyst | Platinum on carbon | 1 g | [Pt] | Pt
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N-[2-(3-aminoquinolin-4-yl)aminoethyl]carbamate | 73 g | NC=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H22N4O2
